US06914074B2
3-Bromo-7-hydroxy-1-naphthonitrile
To a mixture of 7-hydroxy-1-naphthonitrile (26.03 g, 154.0 mmol) and glacial acetic acid (400 mL) was added bromine (51.8 g, 323 mmol). The mixture was stirred at 100° C. for 6 hr. HCl (400 mL of 12 N solution) and SnCl2 (69 g, 308 mmol) were added and the mixture was stirred at 100° C. for 1 hour. The resulting solution was cooled to room temperature and poured into water (1 l). The resulting yellow precipitate was collected by filtration, dried under vacuum, and triturated with ethyl acetate to yield 14.68 g (38%) of the title compound as an off-white solid. An analytical sample was prepared by preparative reverse phase HPLC to yield the title compound as a white solid: mp 222-224° C.; 1H NMR (DMSO-d6): δ 7.28-7.35 (2H, m), 7.97 (1H, d, J=8.73 Hz), 8.26 (1H, s), 8.47 (1H, s), 10.65 (1H, s); MS (ESI) m/z246/247 (M−H)−.

reactant | 7-hydroxy-1-naphthonitrile | 154.0 mmol, 26.03 g | OC1=CC=C2C=CC=C(C2=C1)C#N | C11H7NO
reactant | bromine | 323 mmol, 51.8 g | BrBr | Br2
reactant | HCl | 12 N, 400 mL | Cl | ClH
reactant | SnCl2 | 308 mmol, 69 g | Cl[Sn]Cl
solvent | water | 1 l | O | H2O
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-7-hydroxy-1-naphthonitrile | 14.68 g, 38% | BrC=1C=C(C2=CC(=CC=C2C1)O)C#N | C11H6BrNO
